US05767293
To a solution of 4-[3-(2-hydroxyethyl)-2-methyloxiranyl]-5-methoxy-6-(morpholinocarbonyloxy)-1-oxaspiro[2,5]octane (14.4 mg) in a mixture of anhydrous tetrahydrofuran (1 ml) and N,N-dimethylformamide (1 ml) was added sodium hydride (60% oil dispersion, 4.7 mg) in one portion under ice cooling. The mixture was stirred for half an hour at the same temperature and benzylbromide (13.3 mg) was added. After sitrred for 2 hours at ambient temperature, the reaction was quenched with water (2 ml) and extracted with diethyl ether (1 ml) three times. The combined organic layers were washed with water, dried, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (diethyl ether/n-hexane =1/1) to give 4-[3-(2-benzyloxyethyl)-2-methyloxiranyl]-5-methoxy-6-(morpholinocarbonyloxy)-1-oxaspiro[2,5]octane (4.8 mg).

reactant | 4-[3-(2-hydroxyethyl)-2-methyloxiranyl]-5-methoxy-6-(morpholinocarbonyloxy)-1-oxaspiro[2,5]octane | 14.4 mg | OCCC1C(O1)(C)C1C2(CO2)CCC(C1OC)OC(=O)N1CCOCC1 | C18H29NO7
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 4.7 mg | [H-].[Na+]
reactant | benzylbromide | 13.3 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-[3-(2-benzyloxyethyl)-2-methyloxiranyl]-5-methoxy-6-(morpholinocarbonyloxy)-1-oxaspiro[2,5]octane | 4.8 mg | C(C1=CC=CC=C1)OCCC1C(O1)(C)C1C2(CO2)CCC(C1OC)OC(=O)N1CCOCC1 | C25H35NO7
